US07122672B2
In a similar procedure to Example 6 Stage 2, 3-bromo-6-hydroxyquinoline was reacted with 2-bromo-N-(1-chloro-6-methylhept-4-yn-6-yl) butyramide to give 2-(3-bromo-6-quinolinyloxy)-N-(1-chloro-6-methylhept-4-yn-6-yl) butyramide as a colourless oil. 1H NMR (CDCl3) δ: 1.04–1.10(3H, t); 1.60(6H, s); 1.86–1.94(2H, m); 2.00–2.06(2H, m); 2.32–2.36(2H, t); 3.60–3.64(2H, t); 4.56(1H, t); 6.34(1H, s); 7.02 (1H, m); 7.42–7.46(1H, dd); 8.03 (1H, d); 8.22(1H, s); 8.78(1H, s).

reactant | 3-bromo-6-hydroxyquinoline | BrC=1C=NC2=CC=C(C=C2C1)O | C9H6BrNO
reactant | 2-bromo-N-(1-chloro-6-methylhept-4-yn-6-yl) butyramide | BrC(C(=O)NC(C#CCCCCl)(C)C)CC | C12H19BrClNO
product | 2-(3-bromo-6-quinolinyloxy)-N-(1-chloro-6-methylhept-4-yn-6-yl) butyramide | BrC=1C=NC2=CC=C(C=C2C1)OC(C(=O)NC(C#CCCCCl)(C)C)CC | C21H24BrClN2O2
